### PR TITLE
[Merged by Bors] - feat: a topology with a basis of clopens is completely regular

### PR DESCRIPTION
**Pull request by vihdzp**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Separation/CompletelyRegular.lean [hunk 1]
```diff
@@ -193,6 +195,16 @@ lemma completelyRegularSpace_iff_isInducing_stoneCechUnit :
...
 
+theorem CompletelyRegularSpace.of_isTopologicalBasis_clopens
+    (h : TopologicalSpace.IsTopologicalBasis {s : Set X | IsClopen s}) :
+    CompletelyRegularSpace X where
+  completely_regular x K hK hx := by
+    obtain ⟨s, hs, hx, hsK⟩ := h.exists_subset_of_mem_open hx hK.isOpen_compl
+    refine ⟨(sᶜ).indicator 1, ?_, ?_, fun x hx ↦ indicator_of_mem ?_ _⟩
+    · exact hs.compl.continuous_indicator continuous_const
+    · simpa
+    · exact fun hs ↦ hsK hs hx
```
Comment (themathqueen) [inline Mathlib/Topology/Separation/CompletelyRegular.lean]: This is a mixture of a stylistic comment (which you can ignore if you want - it's the `by simpa` in the `refine`), and the other comment is for not abusing defeq of `Set`.
```suggestion
    refine ⟨sᶜ.indicator 1, ?_, by simpa, fun x hx ↦ indicator_of_mem ?_ _⟩
    · exact hs.compl.continuous_indicator continuous_const
    · exact (mem_compl_iff s x).mpr fun hs ↦ hsK hs hx
```

**Review by themathqueen — APPROVED** [review]

File: Mathlib/Topology/Separation/CompletelyRegular.lean [hunk 2]
```diff
@@ -193,6 +195,15 @@ lemma completelyRegularSpace_iff_isInducing_stoneCechUnit :
   mp _ := isInducing_stoneCechUnit
   mpr hs := hs.completelyRegularSpace
 
+theorem CompletelyRegularSpace.of_isTopologicalBasis_clopens
+    (h : TopologicalSpace.IsTopologicalBasis {s : Set X | IsClopen s}) :
```
Comment (felixpernegger) [inline Mathlib/Topology/Separation/CompletelyRegular.lean:199]: Spaces with such a basis indeed have a name "zero dimensional", see [here](https://topology.pi-base.org/properties/P000050/theorems) (not sure where the name comes from though), so I wonder if it might even be worth to make a proper typeclass for these spaces and at least add the implication T0 + Zero dimensional => Totally separated.

**Review by felixpernegger — APPROVED** [review]

File: Mathlib/Topology/Separation/CompletelyRegular.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/Topology/Separation/CompletelyRegular.lean:199]: The name comes from the fact these are the spaces with small inductive dimension zero. I think it'd be a good idea to add a typeclass proper, given that we spell out this condition explicitly in a few places.

**Comment by ADedecker** [comment]
Thanks!

bors merge
